US04046909
The hydrochloride salt of 2-imino-1-methylpyrrolidine is converted to free base (4.9 g.; 0.05 mole) in benzene in the usual manner. After drying over K2CO3, the benzene solution is stirred at room temperature and 6.86 g. (0.05 mole) of m-fluorophenylisocyanate, dissolved in anhydrous benzene, is added. Heat evolves and after 5-10 minutes, solid precipitates. Stirring is continued for one hour and the solid is then collected (m.p. = 142°-143° C.). Evaporation of solvent from the filtrate yields a second crop (m.p. =142°-143° C.). Recrystallization of the combined solids from ethyl acetate gives the product 1-m-fluorophenyl-3-(1-methyl-2-pyrrolidylidene)urea hydrate, m.p. = 142°-143° C.

reactant | 2-imino-1-methylpyrrolidine | N=C1N(CCC1)C | C5H10N2
reactant | m-fluorophenylisocyanate | 0.05 mole | FC=1C=C(C=CC1)N=C=O | C7H4FNO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-m-fluorophenyl-3-(1-methyl-2-pyrrolidylidene)urea hydrate | O.FC=1C=C(C=CC1)NC(=O)N=C1N(CCC1)C | InChI=1S/C12H14FN3O.H2O/c1-16-7-3-6-11(16)15-12(17)14-10-5-2-4-9(13)8-10;/h2,4-5,8H,3,6-7H2,1H3,(H,14,17);1H2
